US07560558B2
Compound 182: 1-[6-(6,7-Dimethoxy-quinolin-4-yloxy)-indan-5-yl]-ethanone
1-(6-Hydroxyindan-5-yl)-ethanone (275 mg), 4-chloro-6,7-dimethoxyquinoline (173 mg), and 4-dimethylaminopyridine (286 mg) were suspended in o-dichlorobenzene (5 ml) to prepare a suspension which was stirred at 130° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using acetone-hexane to give the title compound (37 mg, yield 13%).

reactant | 1-(6-Hydroxyindan-5-yl)-ethanone | 275 mg | OC1=C(C=C2CCCC2=C1)C(C)=O | C11H12O2
reactant | 4-chloro-6,7-dimethoxyquinoline | 173 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 286 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-[6-(6,7-Dimethoxy-quinolin-4-yloxy)-indan-5-yl]-ethanone | 37 mg, yield 13% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C2CCCC2=C1)C(C)=O | C22H21NO4
